US05849449
4-(2-Cyanoacetamido)phenyl Methacrylate
A mixture of 15.86 g (0.09 mol) of 4-(2-cyanoacetamido)phenol, 16.65 g (0.108 mol) of methacrylic anhydride, 21.36 g (0.27 mol) of pyridine and 135 ml of tetrahydrofuran was prepared to which was added 1.10 g (0.009 mol) of 4-dimethylaminopyridine. A mild exotherm was noted and the mixture was stirred for 22.5 hours. The mixture was poured into dilute HCl and the solid was collected, washed with water, methanol and ligroine. This material was recrystallized from acetonitrile, collected washed with ligroine and dried (mp=216.5°-18° C.).

reactant | 4-(2-cyanoacetamido)phenol | 0.09 mol, 15.86 g | C(#N)CC(=O)NC1=CC=C(C=C1)O | C9H8N2O2
reactant | methacrylic anhydride | 0.108 mol, 16.65 g | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
reactant | pyridine | 0.27 mol, 21.36 g | N1=CC=CC=C1 | C5H5N
reactant | HCl | Cl | ClH
catalyst | 4-dimethylaminopyridine | 0.009 mol, 1.10 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 135 ml | O1CCCC1 | C4H8O
product | 4-(2-Cyanoacetamido)phenyl Methacrylate | C(C(=C)C)(=O)OC1=CC=C(C=C1)NC(CC#N)=O | C13H12N2O3
